US05378690
5.0 g (14.8 mmole) of this 4-morpholinocarbonyl-2-(1-naphthylmethylene)butyric acid were dissolved in 50 ml of methanol and hydrogenated in hydrogen at atmospheric pressure in the presence of 1.0 g of a 10% w/w palladium-on-carbon catalyst. The catalyst was then removed by filtration, after which the solvent was removed by distillation under reduced pressure. The residue was triturated with diethyl ether to precipitate crystals, which were collected by filtration to give 4.5 g of 4-morpholinocarbonyl-2-(1-naphthylmethyl)butyric acid, melting at 130°-135° C.

reactant | 4-morpholinocarbonyl-2-(1-naphthylmethylene)butyric acid | 14.8 mmole, 5.0 g | O1CCN(CC1)C(=O)CCC(C(=O)O)=CC1=CC=CC2=CC=CC=C12 | C20H21NO4
solvent | methanol | 50 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
product | 4-morpholinocarbonyl-2-(1-naphthylmethyl)butyric acid | 4.5 g | O1CCN(CC1)C(=O)CCC(C(=O)O)CC1=CC=CC2=CC=CC=C12 | C20H23NO4
